US08809369B2
A mixture solution of 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (1.5 g, 4 mmol), 1-methyl-piperazine (1.8 mL, 16 mmol), copper(I) iodide (0.46 g, 2.4 mmol), N,N-dimethylglycine hydrochloride (0.45 g, 3.2 mmol), and potassium carbonate (1.66 g, 12 mmol) in dimethyl sulfoxide (10 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature. The reaction mixture was extracted with ethyl acetate (50 mL×2), washed with saturated aqueous ammonium chloride solution (20 mL×3) and brine (20 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 30-50% ethyl acetate in petroleum ether) to afford 4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (0.2 g, 13%) as a white solid: MS (ESI) M+1=394.2.

reactant | 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 4 mmol, 1.5 g | COC(=O)C=1C=CC=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C | C19H20BrNO2
reactant | 1-methyl-piperazine | 16 mmol, 1.8 mL | CN1CCNCC1 | C5H12N2
reactant | N,N-dimethylglycine hydrochloride | 3.2 mmol, 0.45 g | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 2.4 mmol, 0.46 g | [Cu]I
product | 4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 0.2 g, 13% | COC(=O)C=1C=CC=C2C(CC(NC12)C1=CC(=CC=C1)N1CCN(CC1)C)(C)C | C24H31N3O2
